US04496739
A suspension of di-n-butyl cis-1,3-dibenzyl-2-oxoimidazolidine-4,5-dicarboxylate (500 mg) in 0.1M phosphate buffer (pH 8.0, 45 ml) was treated with Pig Liver Esterase (manufactured by Sigma Lab., 1600 units, 10 mg) in a manner similar to that in Example 1 (1) to give (4S,5R)-1,3-dibenzyl-5-n-butyloxycarbonyl-2-oxoimidazolidine-4-carboxylic acid as an oily product. [α]D20 =+4.1° (c=1.55, CHCl3).

reactant | di-n-butyl cis-1,3-dibenzyl-2-oxoimidazolidine-4,5-dicarboxylate | 500 mg | C(C1=CC=CC=C1)N1C(N([C@H]([C@H]1C(=O)OCCCC)C(=O)OCCCC)CC1=CC=CC=C1)=O | C27H34N2O5
solvent | phosphate | 0.1M, 45 ml, pH 8.0 | P(=O)([O-])([O-])[O-]
product | (4S,5R)-1,3-dibenzyl-5-n-butyloxycarbonyl-2-oxoimidazolidine-4-carboxylic acid | C(C1=CC=CC=C1)N1C(N([C@@H]([C@@H]1C(=O)OCCCC)C(=O)O)CC1=CC=CC=C1)=O | C23H26N2O5
